US06818655B2
a) (3-Amino-2-phenyl-propyl)-carbamic Acid Tert-butyl Ester
A solution of 2-phenyl-propane-1,3-diamine (2.20 g, 14.7 mmol) in dry tetrahydrofuran (70 mL) was cooled to 0° C. and treated over 30 minutes with a solution of di-tert-butyl dicarbonate (0.33 eq, 4.88 mmol, 1.10 g) in dry tetrahydrofuran (20 mL). The mixture was allowed to warm to room temperature, stirring overnight. The thick slurry was then concentrated to a white residue, taken into water, and extracted into ethyl acetate. The organic extracts were washed with brine (2×), dried over Na2SO4, filtered, and concentrated to a colorless oil (1.16 g, 95%). [M+H]+ 251.

reactant | 2-phenyl-propane-1,3-diamine | 14.7 mmol, 2.20 g | C1(=CC=CC=C1)C(CN)CN | C9H14N2
reactant | di-tert-butyl dicarbonate | 4.88 mmol, 1.10 g, 0.33 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (3-Amino-2-phenyl-propyl)-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NCC(CN)C1=CC=CC=C1)=O | C14H22N2O2
